US08859573B2
6-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinecarbaldehyde
The title compound was prepared by a procedure similar to that described for D1 starting from 6-chloro-5-fluoro-3-pyridinecarbaldehyde and 4-chloro-3-(trifluoromethyl)phenol. LC-MS (ESI): m/z 320 [M+H]+; 3.62 min (ret time).

reactant | 6-chloro-5-fluoro-3-pyridinecarbaldehyde | ClC1=C(C=C(C=N1)C=O)F | C6H3ClFNO
reactant | 4-chloro-3-(trifluoromethyl)phenol | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
product | 6-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-fluoro-3-pyridinecarbaldehyde | ClC1=C(C=C(C=C1)OC1=C(C=C(C=N1)C=O)F)C(F)(F)F | C13H6ClF4NO2
